US07368578B2
To a mixture of methyl 4-hydroxybenzoate (4.84 g), potassium carbonate (4.80 g), and N,N-dimethylformamide (50 mL) was added 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole (6.00 g) with stirring, and the mixture was stirred at 80° C. for 3 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate (8.09 g, yield 87%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v). White crystals were obtained by recrystallization from ethyl acetate-diisopropyl ether. melting point: 104-105° C.

reactant | methyl 4-hydroxybenzoate | 4.84 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 4.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 4-(chloromethyl)-5-methyl-2-phenyl-1,3-oxazole | 6.00 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | Water | O | H2O
product | methyl 4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate | 8.09 g, yield 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1 | C19H17NO4
